US05232948
Phosphorus oxychloride (1.61 ml, 0.0173 mol) is added dropwise to 1.34 ml of N,N-dimethylformamide (DMF) while the reaction mixture is maintained between 10° to 20° C. with an external cooling bath. A solution of N-methyl-N-phenethyl-2-(3-benzyloxyphenyl)acetamide (3.73 g, 0.0144 mol) in DMF is added dropwise, the resulting mixture is heated at 100° C. for 6 hours. After cooling to room temperature, the reaction mixture is poured into an ice/H2O mixture, ethyl acetate is added, followed by 7.3 g of sodium acetate. The resulting mixture is stirred for 1 hour. The layers are separated. The organic layer is washed with 10 ml of 1N aqueous HCl and brine; dried (MgSO4) and concentrated concentrated in vacuo. The residue obtained is purified by a flash column packed with silica gel and eluted with 5% ethyl acetate in CH2Cl2 to give N-methyl-N-phenethyl-2-(5-benzyloxy-2-formylphenyl)acetamide. NMR confirms this structure.

reactant | Phosphorus oxychloride | 0.0173 mol, 1.61 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N-methyl-N-phenethyl-2-(3-benzyloxyphenyl)acetamide | 0.0144 mol, 3.73 g | CN(C(CC1=CC(=CC=C1)OCC1=CC=CC=C1)=O)CCC1=CC=CC=C1 | C24H25NO2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | sodium acetate | 7.3 g | C(C)(=O)[O-].[Na+]
solvent | DMF | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.34 ml | CN(C=O)C | C3H7NO
product | N-methyl-N-phenethyl-2-(5-benzyloxy-2-formylphenyl)acetamide | CN(C(CC1=C(C=CC(=C1)OCC1=CC=CC=C1)C=O)=O)CCC1=CC=CC=C1 | C25H25NO3
